US07745452B2
To a −15° C. solution of 6-chloro-4-(4-fluorophenyl)-4-hydroxy-3-(2,2,2-trifluoroethyl)-3,4-dihydroquinazolin-2(1H)-one (6.20 g, 16.5 mmol) in anhydrous toluene (60 mL) was added triethylamine (11.5 mL, 82.7 mmol). The reaction was stirred for 5 min and then thionyl chloride (1.27 mL, 17.4 mmol) was added dropwise maintaining the temperature <−5° C. After 15 min, 1M ethylmagnesium bromide in THF (51.3 mL, 51.3 mmol) was added over 35 min maintaining the temperature <−5° C. The reaction was warmed from −15° C. to 0° C. over 30 min and then poured into a vigorously stirred mixture of aqueous 10% citric acid (30 mL), ice (30 g), and ethyl acetate (50 mL). The aqueous phase was extracted with ethyl acetate (3×50 mL). The combined organics were washed with water (50 mL), brine (60 mL), dried over Na2SO4, filtered, and concentrated in vacuo. Purification by normal phase chromatography (0-25% EtOAc/hexanes) gave a crude light yellow oil. Crystallization of the oil from hexane gave racemic 6-chloro-4-ethyl-4-(4-fluorophenyl)-3-(2,2,2-trifluoroethyl)-3,4-dihydroquinazolin-2(1H)-one as an off-white solid. 1H NMR (CDCl3, 400 MHz) 8.19 (s, NH); 7.39 (m, 2H, ArH); 7.09 (m, 3H, ArH); 6.68 (d, J=8.51 Hz, 1H, ArH); 6.46 (d, J=2.11 Hz, 1H, ArH); 3.84 (m, 1H, CH2); 3.56 (m, 1H, CH2); 2.40 (m, 1H, CH2); 2.22 (m, 1H, CH2); 0.90 (t, J=7.15 Hz, 3H, CH3); MS (Electrospray): m/z 387.1 (M+H). Racemic 6-chloro-4-ethyl-4-(4-fluorophenyl)-3-(2,2,2-trifluoroethyl)-3,4-dihydroquinazolin-2(1H)-one (2.76 g) was resolved using chiral reverse phase chromatography (ChiralPak AD packing, 10-30% iPrOH/hexanes with DEA modifier at 1.0 mL/L). The enantiomers were obtained as crystalline solids from hexane to give (+) compound as Peak 1 and (−) compound as Peak 2. Data for Peak 2: 1H NMR (CDCl3, 400 MHz) 8.69 (s, NH); 7.39 (m, 2H, ArH); 7.09 (m, 3H, ArH); 6.70 (d, J=8.60 Hz, 1H, ArH); 6.45 (d, J=2.20 Hz, 1H, ArH); 3.81 (m, 1H, CH2); 3.59 (m, 1H, CH2); 2.40 (m, 1H, CH2); 2.22 (m, 1H, CH2); 0.90 (t, J=7.14 Hz, 3H, CH3); MS (Electrospray): m/z 387.0894 (M+H); [α]D=−8.5° (c0.0024, CH2Cl2). Data for Peak 1, the (+)-enantiomer, [α]D=+7.9° (c0.0027, CH2Cl2).

reactant | 6-chloro-4-(4-fluorophenyl)-4-hydroxy-3-(2,2,2-trifluoroethyl)-3,4-dihydroquinazolin-2(1H)-one | 16.5 mmol, 6.20 g | ClC=1C=C2C(N(C(NC2=CC1)=O)CC(F)(F)F)(O)C1=CC=C(C=C1)F | C16H11ClF4N2O2
reactant | triethylamine | 82.7 mmol, 11.5 mL | C(C)N(CC)CC | C6H15N
reactant | thionyl chloride | 17.4 mmol, 1.27 mL | S(=O)(Cl)Cl | Cl2OS
reactant | ethylmagnesium bromide | 1M | C(C)[Mg]Br
reactant | THF | 51.3 mmol, 51.3 mL | C1CCOC1 | C4H8O
reactant | citric acid | 30 mL | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | toluene | 60 mL | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
product | racemic 6-chloro-4-ethyl-4-(4-fluorophenyl)-3-(2,2,2-trifluoroethyl)-3,4-dihydroquinazolin-2(1H)-one | ClC=1C=C2C(N(C(NC2=CC1)=O)CC(F)(F)F)(C1=CC=C(C=C1)F)CC | C18H15ClF4N2O
